data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c03940_sup_1.json
{"doi": "10.1021_acs.orglett.3c03940_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical reductive cross-coupling of two vinyl bromides to form unsymmetrical 1,3-dienes using a Ni catalyst with sacrificial-like cathodic SET activation.", "mechanism_family": ["radical_cathodic", "electrocatalysis_inner_sphere"], "electrochemical_role": "Cathodic reduction generates low-valent Ni species and/or reduces a Ni-vinyl intermediate to enable cross-coupling; vinyl bromide is activated via SET to give a vinyl radical that engages Ni.", "key_intermediates": [{"name": "vinyl radical from styryl bromide (1a)", "smiles": "[CH]=Cc1ccccc1", "role": "reactive"}, {"name": "allyloxy-substituted vinyl bromide partner (2a)", "smiles": "C(=C)(Br)COc1ccccc1", "role": "reactive"}, {"name": "Ni(dtbbpy) low-valent catalyst", "smiles": null, "role": "reactive"}, {"name": "Ni-vinyl (Ni-alkenyl) species", "smiles": null, "role": "transient"}], "electron_flow": "At the cathode, Ni(II)/dtbbpy is reduced to a low-valent Ni that oxidatively adds/couples with one vinyl bromide; the second vinyl bromide is activated by SET to a vinyl radical which is captured by Ni, and reductive elimination delivers the 1,3-diene. TMSCl activates the SS anode/scavenges bromide.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3a not detected (ND at 6.5 F/mol; trace at 13.0 F/mol); 1a recovered 51%/34% — reaction strongly inhibited, consistent with radical intermediate."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Little effect: 3a still formed in 62%; suggests the radical is not a free, BHT-trappable species (likely metal-bound or short-lived)."}, {"name": "(Z)-styryl bromide (1m)", "smiles": "Br/C=C\\c1ccccc1", "purpose": "other", "observation": "Cross-coupling with 2a gave 3a (13%) and 3a' (Z-isomer, 14%) — partial loss of olefin geometry, consistent with a vinyl-radical intermediate that loses stereochemistry."}, {"name": "nitrosobenzene", "smiles": "O=Nc1ccccc1", "purpose": "intermediate_trap", "observation": "Used in one-pot tandem (procedure IX) to trap intermediate and give product 6i."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "TEMPO suppresses but BHT does not — authors interpret this as a Ni-bound/short-lived vinyl radical rather than a freely diffusing one. E/Z scrambling from (Z)-1m supports a vinyl radical intermediate. Pre-electrolysis and CV experiments referenced (sections 5.3 and 6) further support cathodic activation of the Ni catalyst before substrate engagement."}
